US07531532B2
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide (114 mg) was dissolved in tetrahydrofuran (3 ml) and methanol (3 ml). 10% Palladium carbon (55 mg) was added, followed by stirring under a hydrogen atmosphere for 22 hrs. The reaction mixture was filtered to remove the catalyst, and the catalyst was washed with methanol. The filtrate was concentrated under reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=9:1). Fractions containing the target compound were concentrated to give a crude product of the titled compound (71 mg) as a pale yellow oil.

reactant | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 114 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)CCN2CCC2)C=CC(=C1)[N+](=O)[O-] | C21H25FN6O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
catalyst | Palladium carbon | 55 mg | [C].[Pd]
product | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 71 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)CCN2CCC2)C=C1)F | C21H27FN6O2
